US07902394B2
(f) Ethyl 3-{3,4-difluoro-5-[(2S)-2-oxiranyl]phenyl}pentanoate
To a solution of ethyl 3-[3,4-difluoro-5-((1S)-1-hydroxy-2-{[(4-methylphenyl)sulfonyl]oxy}ethyl)phenyl]pentanoate (14.50 g, 0.0318 mol) in absolute ethanol (270 mL) was added potassium carbonate (8.78 g, 0.0635 mol) and the reaction was stirred at RT overnight. The reaction was concentrated and diluted with water and extracted with ethyl acetate (×2). The combined organic layers were dried over Na2SO4, filtered, and concentrated. Column chromatography (hexane:ethylacetate, 0-25%) yielded the desired product (8.65 g, 96%).

reactant | ethyl 3-[3,4-difluoro-5-((1S)-1-hydroxy-2-{[(4-methylphenyl)sulfonyl]oxy}ethyl)phenyl]pentanoate | 0.0318 mol, 14.50 g | FC=1C=C(C=C(C1F)[C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)O)C(CC(=O)OCC)CC | C22H26F2O6S
reactant | potassium carbonate | 0.0635 mol, 8.78 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 270 mL | C(C)O | C2H6O
product | Ethyl 3-{3,4-difluoro-5-[(2S)-2-oxiranyl]phenyl}pentanoate | 8.65 g, 96% | FC=1C=C(C=C(C1F)[C@@H]1OC1)C(CC(=O)OCC)CC | C15H18F2O3
